US09334279B2
To a dry 2 dram vial equipped with a stir bar was added 1H-pyrazole (16 mg, 0.23 mmol), then DMF (1 mL). To the solution was added sodium hydride (60% disp. in oil, 11 mg, 0.27 mmol) upon which effervesence was immediately observed. The mixture was stirred at room temperature for 15 minutes. To the solution was added 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine (60 mg, 0.21 mmol) as a solution in DMF (0.2 mL). The solution was stirred at room temperature for 3 hours and then at 60° C. for 2.5 hours. The reaction mixture was cooled to room temperature and then directly purified via C18 chromatography (water:MeOH w/0.1% TFA) to afford 2-chloro-6-(4-isopropoxyphenyl)-4-(1H-pyrazol-1-yl)pyridine as an off-white solid (41 mg, 62%). 1H-NMR (400 MHz, CDCl3) δ 8.05 (d, J=2.5 Hz, 1H), 7.99 (d, J=9.0 Hz, 2H), 7.96 (d, J=1.8 Hz, 1H), 7.81 (d, J=1.5 Hz, 1H), 7.50 (d, J=1.5 Hz, 1H), 6.97 (d, J=8.8 Hz, 2H), 6.56 (dd, J=2.5, 1.8 Hz, 1H), 4.64 (dquin, J=12.2, 6.0 Hz, 1H), 1.40-1.35 (m, 6H); MS: MS m/z 314.2 (M++1).

reactant | 1H-pyrazole | 0.23 mmol, 16 mg | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | 0.27 mmol, 11 mg | [H-].[Na+]
reactant | 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine | 0.21 mmol, 60 mg | ClC1=NC(=CC(=C1)Cl)C1=CC=C(C=C1)OC(C)C | C14H13Cl2NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-chloro-6-(4-isopropoxyphenyl)-4-(1H-pyrazol-1-yl)pyridine | 41 mg, 62% | ClC1=NC(=CC(=C1)N1N=CC=C1)C1=CC=C(C=C1)OC(C)C | C17H16ClN3O
